US05302720
A mixture of 4-methanesulphonyliodobenzene (18 g), 2-bromonitrobenzene (12.7 g) and copper powder (12 g) was heated at 120° C. for 30 hours to yield a residue which was purified by chromatography on a silica column eluted successively with 5:95 mixture, a 10:90 mixture, a 25:75 mixture and then a 40:60 mixture of ethylacetate and hexane to give 4'-methanesulphonyl-2-nitrobiphenyl (m.p. 178° C.). 4'-methanesulphonyl-2-nitrobiphenyl (5 g) was heated at 90°-95° C. for 6 hours with hydrated sodium sulphide (17.3 g) and ethanol (100 ml) to give 2-amino-4'-methanesulphonylbiphenyl (m.p. 164°-165° C.).

reactant | 4-methanesulphonyliodobenzene | 18 g | CS(=O)(=O)C1=CC=C(C=C1)I | C7H7IO2S
reactant | 2-bromonitrobenzene | 12.7 g | BrC1=C(C=CC=C1)[N+](=O)[O-] | C6H4BrNO2
catalyst | copper | 12 g | [Cu] | Cu
product | 4'-methanesulphonyl-2-nitrobiphenyl | CS(=O)(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)[N+](=O)[O-] | C13H11NO4S
